US09427475B2
Step B: 2-azidoethyl 2,4-di-O-benzoyl-3-O-(2,3,4,6-tetra-O-benzoyl-α-D-mannopyranosyl)-6-O-trityl-α-D-mannopyranoside
In a 100 mL round bottom flask was added 2-azidoethyl 2,4-bis-O-benzoyl-6-O-trityl-α-D-mannopyranoside (400 mg, 0.572 mmol), 2,3,4,6-tetra-O-benzoyl-1-O-(2,2,2-trichloroethanimidoyl)-α-D-mannopyranose (508 mg, 0.686 mmol) and 4 Å molecular sieves (300 mg). To the above mixture was added CH2Cl2 (5 mL). The reaction mixture was cooled to −78° C., to which was added TMSOTf (10.33 μL, 0.057 mmol). The mixture was allowed to gradually warm to 0° C. and stirred for 30 min. The reaction was then quenched with sat'd NaHCO3, and filtered through a pad of Celite. The filtrate was diluted with CH2Cl2 (20 mL), washed with brine and water. The organic phase was dried over MgSO4, and concentrated. The residue was purified by flash chromatography on silica gel (80 g), eluting with 0-100% EtOAc in hexanes, to give the title product. LC-MS Method A: m/e=1278.80 [M+1]; Rt=3.14 min. 1H NMR (CDCl3) δ 7.1-8.3 (m, 30H), 6.0 (t, 1H), 5.8 (t, 1H), 5.7 (m, 2H), 5.4 (s, 1H), 5.38 (m, 1H), 5.2 (s, 1H), 4.7 (dd, 1H), 4.6 (dd, 1H), 4.45 (m, 1H), 4.35 (dd, 1H), 3.9-4.0 (m, 2H), 3.8 (m, 2H), 3.7 (m, 1H), 3.4 (m, 2H).

reactant | 2-azidoethyl 2,4-bis-O-benzoyl-6-O-trityl-α-D-mannopyranoside | 0.572 mmol, 400 mg | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@@H](OCCN=[N+]=[N-])O[C@@H]([C@H]([C@@H]1O)OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C41H37N3O8
reactant | 2,3,4,6-tetra-O-benzoyl-1-O-(2,2,2-trichloroethanimidoyl)-α-D-mannopyranose | 0.686 mmol, 508 mg | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@@H](OC(C(Cl)(Cl)Cl)=N)O[C@@H]([C@H]([C@@H]1OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O | C36H28Cl3NO10
reactant | TMSOTf | 0.057 mmol, 10.33 μL | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-azidoethyl 2,4-di-O-benzoyl-3-O-(2,3,4,6-tetra-O-benzoyl-α-D-mannopyranosyl)-6-O-trityl-α-D-mannopyranoside | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@@H](OCCN=[N+]=[N-])O[C@@H]([C@H]([C@@H]1O[C@@H]1[C@@H](OC(C2=CC=CC=C2)=O)[C@@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C75H63N3O17
